Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Omnipaque
 
Attending: ___.
 
Chief Complaint:
Right sided chest and shoulder pain
Exertional dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no significant past medical history who presents from
urgent care with new pulmonary embolism, as well as allergic
reaction to CT contrast. 

Patient recently drove from ___ to ___ on ___ 
with
few stops along the way. Yesterday evening, he developed sharp
right-sided pleuritic chest pain starting over the trapezius.
APAP/ibuprofen were of little help. Additionally, over yesterday
and today, patient began to feel progressively short of breath,
particular with exertion. He presented to urgent care today,
where he was noted to have new T wave inversions in lead III as
well as a finding concerning for pulmonary infarct on his chest
x-ray. D-dimer was grossly positive, and CTA chest showed a
segmental pulmonary embolism. Additionally, after receiving the
iodinated contrast for CT scan, he developed hives (below R eye,
chest, and L shoulder) without other manifestations of allergic
reaction/anaphylaxis. Patient has never had such reaction 
before.
He was given diphenhydramine and methylprednisolone and
transferred to ED for further care. 

Upon initial evaluation in the emergency department, patient
reports ongoing respirophasic chest pain and mild shortness of
breath. He is otherwise asymptomatic. 

 
Past Medical History:
RIGHT KNEE ARTHROSCOPY, RIGHT KNEEARTHROSCOPIC SPUR ___  
EXCISION  
 
Social History:
___
Family History:
Sister (age ___ had DVT during a pregnancy in her late ___
Father Living ___ DRUG ABUSE  
MGF Deceased MYOCARDIAL INFARCTION  
MGM Deceased SYSTEMIC SCLEROSIS  
Brother DRUG ABUSE  
Comments: Uncle with TB, aunt with ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VITAL SIGNS: 99.3 162/92 104 18 96 Ra   
GENERAL: Male in no acute distress, able to speak in full
sentences.
HEENT: PERRL, EOMI.  OP clear with moist mucous membranes.
NECK: No JVP elevation.
CARDIAC: Tachycardic, regular rhythm.  Normal S1-S2.  No 
murmurs,
rubs, or gallops.
LUNGS: Limited air movement in the setting of pain.  Decreased
breath sounds at the right base.  Otherwise clear to 
auscultation
bilaterally.
ABDOMEN: Normoactive bowel sounds throughout.  Nontender,
nondistended.  No hepatospleno megaly.
EXTREMITIES: Warm well perfused.  No lower extremity swelling or
tenderness.  
SKIN: Small urticarial lesion under the right eye.

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 713)
    Temp: 97.6 (Tm 98.4), BP: 126/82 (117-137/70-87), HR: 68
(68-85), RR: 18, O2 sat: 94% (88-95), O2 delivery: Ra    
GENERAL: Male in no acute distress, able to speak in full
sentences.
HEENT: PERRL, EOMI.  OP clear with moist mucous membranes.
NECK: No JVP elevation.
CARDIAC: RRR,  Normal S1-S2.  No murmurs, rubs, or gallops.
LUNGS: Limited air movement in the setting of pain.  Decreased
breath sounds at the right base.  Otherwise clear to 
auscultation
bilaterally.
ABDOMEN: Normoactive bowel sounds throughout.  Nontender,
nondistended.  No hepatospleno megaly.
EXTREMITIES: Warm well perfused.  No lower extremity swelling or
tenderness.  
SKIN: Small urticarial lesion under the right eye.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:25PM   WBC-13.1* RBC-5.10 HGB-15.2 HCT-44.5 MCV-87 
MCH-29.8 MCHC-34.2 RDW-11.6 RDWSD-37.0
___ 01:25PM   NEUTS-76.7* LYMPHS-15.3* MONOS-7.4 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-10.05* AbsLymp-2.01 AbsMono-0.97* 
AbsEos-0.03* AbsBaso-0.02
___ 01:25PM   PLT COUNT-183
___ 01:25PM   D-DIMER-1265 REPOR
___ 01:25PM   cTropnT-<0.01
___ 01:25PM   GLUCOSE-99 UREA N-10 CREAT-1.0 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-97 TOTAL CO2-25 ANION GAP-14
___ 09:35PM   cTropnT-<0.01 proBNP-12
___ 09:35PM   ALT(SGPT)-17 AST(SGOT)-15 LD(LDH)-193 ALK 
PHOS-67 TOT BILI-0.6

DISCHARGE LABS:
===============
___ 07:00AM BLOOD WBC-10.6* RBC-4.87 Hgb-14.7 Hct-43.7 
MCV-90 MCH-30.2 MCHC-33.6 RDW-11.7 RDWSD-38.0 Plt ___
___ 07:00AM BLOOD ___ PTT-30.1 ___
___ 07:00AM BLOOD Glucose-88 UreaN-12 Creat-0.9 Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-12
___ 07:00AM BLOOD Phos-3.3 Mg-2.0

IMAGING/STUDIES:
================
___ CXR
Right lower lobe consolidation, worrisome for pneumonia.  Subtle 
left base 
opacity is more likely to be due to atelectasis, but additional 
consolidation not excluded. 

___ CTA Chest
1.  Extensive segmental and subsegmental pulmonary emboli 
involving all lobes with the most extensive involvement in the 
right lower lobe where there appears to be a small amount of 
pulmonary hemorrhage and areas of evolving infarct.  Findings 
concerning for mild right heart strain. 
3.  Hepatic steatosis. 

___ Bilateral Lower Extremity Venous Dupplex
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins.

___ TTE
Normal left ventricular wall thickness and biventricular cavity 
sizes and regional/global systolic function. Moderate pulmonary 
hypertension. 

PENDING LABS:
==============
___ 07:00AM BLOOD Fact V-PND
___ 07:00AM BLOOD Lupus-PND
___ 07:00AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 07:00AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
 
Brief Hospital Course:
Mr. ___ is a ___ male with no significant past medical 
history who presents with progressive right sided chest/shoulder 
pain and exertional shortness of breath, suddenly found to have 
extensive segmental and subsegmental pulmonary emboli 
bilaterally complicated by imaging findings consistent with 
pulmonary hemorrhage/infarct.

# Chest pain and exertional shortness of breath
# Segmental and subsegmental pulmonary emboli - 
Patient presents with acute onset cardiopulmonary symptoms 
several weeks after taking a long car trip from ___ to 
___. D-dimer 1265. CTA chest shows extensive 
segmental/subsegmental pulmonary emboli bilaterally with 
additional imaging findings concerning for pulmonary hemorrhage 
and areas of evolving artifact. TTE was negative for any 
evidence of RV strain and troponin was negative. As for the 
underlying etiology, his pulmonary emboli seem most likely to 
have been provoked in the setting of recent immobility during 
his car trip. There is, however, some suspicion for underlying 
hypercoagulability given familial history of DVT and extensive 
clot burden seen on imaging. Occult malignancy should also be 
considered, though this seems less likely given his history. 
Patient is a never smoker and had a colonoscopy ___ years ago with 
one benign polyp removed. LENIs were negative for DVT. 
Preliminary hypercoagulability workup was sent as an inpatient 
(Factor V, lupus anticoagulant, beta-2-glycoprotein, 
cardiolipin) which were pending on discharge; consider 
hematology referral as outpatient as clinically indicated. He 
was discharged on apixaban (10mg BID until ___ and then 5mg 
BID afterward). His pain was controlled on standing Tylenol, and 
he was discharged with a few pills of tramadol for breakthrough 
pain.

# Pulmonary hemorrhage
# Pulmonary infarct 
Both complications of PE as above. Hb is stable and patient is 
HD stable without any hemoptysis or fevers/chills.

# Leukocytosis with neutrophilic predominance 
It appears that CBC was drawn prior to receiving 
methylprednisolone for allergic reaction to contrast dye. This 
may be related to his PE, though should monitor closely for 
evolving PNA as above. No urinary or other localizing infectious 
symptoms. WBC at 10.6 on discharge.

# Allergic reaction 
Patient quickly developed hives after receiving IV contrast for 
CTA, no symptoms c/f anaphylaxis. He received 125 mg solumedrol, 
25 mg IV Benadryl at urgent care with improvement in symptoms. 
Added to allergy list. 

# Hepatic steatosis 
Noted incidentally on CTA. No significant EtOH use. BMI 30.2. 
HbA1C 4.5% ___. Lipid panel TC 181, TGs 297, HDL 34, LDLcalc 
___, LFT's normal. Consider repeat outpatient HbA1C/lipid 
panel, and consider RUQUS/fibroscan.

TRANSITIONAL ISSUES:
====================

NEW MEDICATIONS
- Apixaban 10mg BID ___ - ___ for 1 week followed by
- Apixaban 5mg BID (after ___ for at least 6 months
- Tramadol for breakthrough pain

[] Please ensure that apixaban continues to be covered for the 
remainder of his course. On discharge, he received a month 
supply and was provided instructions for how to continue to 
obtain future apixaban, but please continue to follow up to 
ensure compliance and no further financial issues. He may prefer 
to get apixaban as mail order rather than pick up from ___ 
Pharmacy.
[] Follow up with hypercoag inpatient workup (Factor V, lupus 
anticoagulant, beta-2-glycoprotein, cardiolipin) and refer to 
hematology as indicated
[] Of note, pulmonary embolism was determined to be "provoked" 
and only 6 month therapy was recommended. Continue to evaluate 
and consider extending anticoagulation as clinically indicated.
[] Recommend using incentive spirometry to help inflate lungs 
and promote lung recovery after pulmonary embolism
[] Consider outpatient HgB A1c and lipid panel for workup of 
hepatic steatosis. Consider fibroscan as clinically indicated.

 # CODE: full (presumed) 
 # CONTACT: 
Next of Kin: ___ 
 Relationship: WIFE 
 Phone: ___ 

___ is clinically stable for discharge toady.  On the 
day of discharge, greater than 30 minutes were spent on the 
planning, coordination, and communication of the discharge.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Apixaban 10 mg PO BID Duration: 7 Days  
3.  TraMADol 50 mg PO Q6H:PRN Pain - Severe Duration: 5 Days 
RX *tramadol 50 mg 1 tablet(s) by mouth Every 6 hours Disp #*5 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why were you admitted?
- You were admitted for a pulmonary embolism

What happened while you were in the hospital?
- You did not have any evidence of heart damage related to your 
pulmonary embolism
- You needed to stay one extra night due to oxygen desaturations 
while walking
- We sent out some preliminary labs to look for causes of blood 
clots. It is possible that your blood clot is just related to 
your long car ride, but given your family history, we wanted to 
look into other causes.

What should you do when you leave the hospital?
- You are being discharged home without oxygen
- You should take Tylenol as needed (1g every 8 hours) for pain
- You are also given a small prescription of Tramadol for 
additional pain on top of the Tylenol
- Avoid taking NSAIDs like ibuprofen, Aleve, or Advil since they 
can worsen bleeding especially in the setting of a recent blood 
clot

It was a pleasure taking care of you! We wish you all the best.

- Your ___ Team
 
Followup Instructions:
___